US07176210B2
Preparation of 7-Chloro-3-(4-chlorophenyl)-2-(2-chlorophenyl)-pyrazolo[1,5-a]pyrimidine (I-13A-1a)
To a slurry of 3-(4-chlorophenyl)-2-(2-chlorophenyl)-pyrazolo[1,5-a]pyrimidin-7-ol (I-12A-1a; 2.00 g, 5.61 mmol) and diisopropylethylamine (4.0 ml, 22 mmol) in toluene (60 ml) at room temperature was added POCl3 (2.1 ml, 22 mmol), dropwise. The mixture was heated at 100° C. for 7 hours, concentrated, in vacuo, and the purified by silica gel chromatography using 10% hexanes in methylene chloride as eluant to afford I-13A-1a (1.72 g, 82%) as a solid: +APcI MS (M+1) 374.1; 1H NMR (400 MHz, CD2Cl2) δ 8.49 (d, J=4.6 Hz, 1H), 7.54–7.38 (m, 6H), 7.28 (d, J=8.7 Hz, 2H), 7.12 (d, J=4.2 Hz, 1H).

reactant | 3-(4-chlorophenyl)-2-(2-chlorophenyl)-pyrazolo[1,5-a]pyrimidin-7-ol | 5.61 mmol, 2.00 g | ClC1=CC=C(C=C1)C=1C(=NN2C1N=CC=C2O)C2=C(C=CC=C2)Cl | C18H11Cl2N3O
reactant | diisopropylethylamine | 22 mmol, 4.0 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | POCl3 | 22 mmol, 2.1 ml | O=P(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 7-Chloro-3-(4-chlorophenyl)-2-(2-chlorophenyl)-pyrazolo[1,5-a]pyrimidine | ClC1=CC=NC=2N1N=C(C2C2=CC=C(C=C2)Cl)C2=C(C=CC=C2)Cl | C18H10Cl3N3
